US09447006B2
(+)-γ-tocopherol (Ex-1D-1) (300 mg, 0.72 mmol), K2CO3 (199 mg, 1.44 mmol), allyl bromide (182 μL, 1.44 mmol) and acetone (8 mL) were charged to a 50 mL RBF. The reaction was heated to reflux for 20 h after which time it was deemed complete by TLC (1:5 EtOAc:Hept). The reaction was diluted with water (10 mL). The aqueous layer was separated and washed with DCM (3×10 mL). The combined DCM layers were dried over Na2SO4, filtered and concentrated by rotary evaporation to yield a pale yellow oil. The oil was flashed through a silica plug (1:1: DCM:Heptane). After concentration of the eluent, (R,R,R)-6-allyloxy-2,7,8-trimethyl-2-(4,8,12-trimethyl-tridecyl)-chroman (Ex-1D-2) was obtained as a clear, colorless oil (334 mg, >100%), which was used without further purification.

reactant | (+)-γ-tocopherol | 0.72 mmol, 300 mg | CC1=C(C=C2CC[C@@](OC2=C1C)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C)O | C28H48O2
reactant | K2CO3 | 1.44 mmol, 199 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 1.44 mmol, 182 μL | C(C=C)Br | C3H5Br
reactant | acetone | 8 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R,R,R)-6-allyloxy-2,7,8-trimethyl-2-(4,8,12-trimethyl-tridecyl)-chroman | C(C=C)OC=1C=C2CC[C@](OC2=C(C1C)C)(CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)C | C31H52O2
